US09399630B2
Step-2: Preparation of 3-(4-Chlorobutyl)-1H-indole-5-carbonitrile
Chlorotrimethylsilane (137 g) was added to a mixture of 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile (50 g) and acetonitrile (750 ml) at 25-30° C. The resulting mixture was cooled to 0° C., followed by portion wise addition of sodium cyanoborohydride (75 g) while maintaining the temperature at 0-5° C. during the time period of 30 minutes to 1 hour. The resulting mass was stirred for 1 hour at the same temperature. The temperature of the reaction mass was then raised to 25-30° C., followed by stirring for 6-16 hours at the same temperature. The reaction mass was slowly poured into water (5 Lt) at 25-30° C. and then stirred for 30 minutes to 1 hour at the same temperature. The separated solid was filtered and then dissolved in dichloromethane (900 ml) and the resulting organic layer was washed with 20% sodium chloride solution (400 ml×10). The resulting organic layer was subjected to carbon treatment, followed by distillation of the organic layer at 50-55° C. under vacuum to produce the titled compound as a residue. The resulting residue was dissolved in 5% aqueous methanol (4 to 5 times to the weight of the residue), followed carbon treatment at 50-55° C. The resulting filtrate was finally cooled to 25-30° C., the separated solid was filtered, washed with chilled 5% aqueous methanol (50 ml) and then dried the material at 60-65° C. to produce 31 g of 3-(4-chlorobutyl)-1H-indole-5-carbonitrile (First Crop). The resulting filtrate was cooled to 0-5° C. and then stirred for 30 minutes at the same temperature. The separated solid was filtered, washed with chilled 5% aqueous methanol and then dried the material at 60-65° C. to produce 10.5 g of the titled compound (Second Crop) (Purity by HPLC: 99.3; Total yield: 87.2%).

reactant | Chlorotrimethylsilane | 137 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile | 50 g | ClCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H11ClN2O
reactant | acetonitrile | 750 ml | C(C)#N | C2H3N
reactant | sodium cyanoborohydride | 75 g | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
product | 3-(4-Chlorobutyl)-1H-indole-5-carbonitrile | ClCCCCC1=CNC2=CC=C(C=C12)C#N | C13H13ClN2
